US07863291B2
To 6,8-dichloroisoquinolin-3-amine (0.27 g, 1.28 mmol) in dichloromethane (20 mL) was added 1,1′-thiocarbonyldipyridin-2(1H)-one (0.30 g, 1.29 mmol) and the reaction mixture was stirred at 40° C. for 4 hours. The reaction was cooled to room temperature and chromatographed (Biotage: 10-100% ethyl acetate/hexanes) to yield 6,8-dichloro-3-isothiocyanatoisoquinoline (0.2 g, 0.78 mmol, 61.9% yield) as a powder. 1H NMR (500 MHz, DMSO-D6) δ ppm 9.42 (s, 1H), 8.16 (d, J=1.83 Hz, 1H), 8.02 (d, J=2.14 Hz, 1H), 7.92 (s, 1H). MS (LC/MS) R.T.=3.63; [M+H]+=255.0.

reactant | 6,8-dichloroisoquinolin-3-amine | 1.28 mmol, 0.27 g | ClC=1C=C2C=C(N=CC2=C(C1)Cl)N | C9H6Cl2N2
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 1.29 mmol, 0.30 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 6,8-dichloro-3-isothiocyanatoisoquinoline | 0.78 mmol, 0.2 g, 61.9% yield | ClC=1C=C2C=C(N=CC2=C(C1)Cl)N=C=S | C10H4Cl2N2S
